US04833134
In 150 ml of ethanol was suspended 5.56 g of 4-mercaptopyridine, to which was added 11.13 g of triethylamine to give a clear solution. To the solution was added 12.04 g of 3-bromopropylamine hydrobromide, and the mixture was stirred at room temperature for 1 hour. To the reaction mixture was added, while stirring, 16.37 g of di-tert-butyl dicarbonate little by little, followed by stirring for 30 minutes. The solvent was distilled off under reduced pressure. To the residue was added 200 ml of water, which was subjected to extraction with 200 ml of chloroform. The extract was dried over magnesium sulfate, from which the solvent was distilled off under reduced pressure. The residue was subjected to a silica gel (300 g) column chromatography. The column was developed with a mixture of hexane and ethyl acetate (1:1), followed by elution with ethyl acetate to give 6.26 g of 4-(3-tert-butoxycarbonylaminopropylthio)pyridine as pale yellow powder, m.p. 72° to 74° C.

reactant | 4-mercaptopyridine | 5.56 g | SC1=CC=NC=C1 | C5H5NS
reactant | triethylamine | 11.13 g | C(C)N(CC)CC | C6H15N
reactant | 3-bromopropylamine hydrobromide | 12.04 g | Br.BrCCCN
reactant | di-tert-butyl dicarbonate | 16.37 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 4-(3-tert-butoxycarbonylaminopropylthio)pyridine | 6.26 g | C(C)(C)(C)OC(=O)NCCCSC1=CC=NC=C1 | C13H20N2O2S
